US08754101B2
Intermediate 31: Methyl 2-amino-6-({[(methyloxy)methyl]oxy}methyl)-3-pyridinecarboxylate
To a degassed suspension of methyl 2-amino-6-chloro-3-pyridinecarboxylate (2.24 g, 12 mmol) and tributyl({[(methyloxy)methyl]oxy}methyl)stannane (4.82 g, 13.2 mmol) in anhydrous toluene (30 mL), split between two vessels, was added chloro(di-2-norbonylphosphino)(2′-dimethylamino-1,1′-biphenyl-2-yl)palladium (II) (325 mg, 0.598 mmol) to each vessel. The reaction vessels were sealed and heated in a Biotage Initiator using initial absorption normal to 170° C. for 1 hour. Analysis by LCMS indicated the reaction to be approximately 20-25% complete. The reaction was mixture was poured into a biphasic mixture of ethyl acetate (200 mL) and aqueous potassium flouride solution (3 g in 200 mL). The mixture was stirred rapidly for 10 min before filtering though celite (10 g). The filtrate was separated and the aqueous layer was back extracted with ethyl acetate (100 mL). The combined organic extracts were dried (Na2SO4), filtered and concentrated in vacuo. The residue was dissolved in toluene (30 mL) and treated again with tributyl({[(methyloxy)methyl]oxy}methyl)stannane (4.82 g, 13.2 mmol) and chloro(di-2-norbonylphosphino)(2′-dimethylamino-1,1′-biphenyl-2-yl)palladium (II) (0.67 g, 1.195 mmol). The resulting mixture was split into two and degassed. The reaction vessels were sealed and heated in a Biotage Initiator using initial absorption normal to 170° C. for 1 hour. Analysis by LCMS indicated all starting material had been consumed. The reaction mixture was poured into a biphasic mixture of ethyl acetate (200 mL) and aqueous potassium flouride solution (3 g in 200 mL). The mixture was stirred rapidly and then filtered through a pad of celite (10 g). The resultant biphasic filtrate was separated and the aqueous layer was back extracted with ethyl acetate (150 mL). The combined organic extracts were dried (Na2SO4), filtered and concentrated in vacuo to give a yellow slurry. This material was dissolved in DCM/methanol and purified by SPE on a sulphonic acid cartridge (SCX, 50 g) using first DCM/methanol followed by 2M ammonia/methanol. The appropriate fractions were combined and evaporated in vacuo to give crude product (2.1 g) which was dissolved in DCM and purified on silica (100 g) using a 0-50% ethyl acetate-cyclohexane gradient over 60 min. The appropriate fractions were combined and evaporated in vacuo to give a sticky yellow solid which was triturated with petroleum ether (40-60), collected by filtration and dried in vacuo to give the title compound (500 mg).

reactant | methyl 2-amino-6-chloro-3-pyridinecarboxylate | 12 mmol, 2.24 g | NC1=NC(=CC=C1C(=O)OC)Cl | C7H7ClN2O2
reactant | tributyl({[(methyloxy)methyl]oxy}methyl)stannane | 13.2 mmol, 4.82 g | C(CCC)[Sn](COCOC)(CCCC)CCCC
reactant | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
reactant | potassium flouride | 200 mL, 3 g | [F-].[K+]
reactant | tributyl({[(methyloxy)methyl]oxy}methyl)stannane | 13.2 mmol, 4.82 g | C(CCC)[Sn](COCOC)(CCCC)CCCC
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | DCM methanol | C(Cl)Cl.CO
solvent | DCM | C(Cl)Cl | CH2Cl2
product | Methyl 2-amino-6-({[(methyloxy)methyl]oxy}methyl)-3-pyridinecarboxylate | 500 mg | NC1=NC(=CC=C1C(=O)OC)COCOC | C10H14N2O4
